US09403816B2
tert-Butyl 4-nicotinoylpiperidine-1-carboxylate
A mixture of piperidin-4-yl(pyridin-3-yl)methanone hydrochloride (397 mg, 1.75 mmol), di-tert-butyl dicarbonate (710 mg, 3.25 mmol), N,N-dimethylpyridin-4-amine (28 mg, 0.23 mmol) and Et3N (1.2 mL, 8.6 mmol) in THF (15 mL) and CH2Cl2 (5 mL) was stirred for 3 days and then concentrated. The residue was purified by flash column chromatography (40 g silica gel column, 50-70% EtOAc in heptane) to provide the title compound as a clear oil.

reactant | piperidin-4-yl(pyridin-3-yl)methanone hydrochloride | 1.75 mmol, 397 mg | Cl.N1CCC(CC1)C(=O)C=1C=NC=CC1
reactant | di-tert-butyl dicarbonate | 3.25 mmol, 710 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 8.6 mmol, 1.2 mL | CCN(CC)CC | C6H15N
catalyst | N,N-dimethylpyridin-4-amine | 0.23 mmol, 28 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-nicotinoylpiperidine-1-carboxylate | C(C1=CN=CC=C1)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O3
